US03953457
EXAMPLE 7: 1-AMINO-s-TRIAZOLO(4,3-a)QUINOLINE
The 1-amino-s-triazolo(4,3-a)quinoline hydrobromide obtained as reported in the preceding example was dissolved in water. A sodium acetate/sodium hydroxide mixture was added to break up the salt. The product then precipitated out as the free base, m.p., 250°-3°C.

reactant | 1-amino-s-triazolo(4,3-a)quinoline hydrobromide | Br.NC1=NN=C2N1C1=CC=CC=C1C=C2
reactant | sodium acetate sodium hydroxide | C(C)(=O)[O-].[Na+].[OH-].[Na+]
solvent | water | O | H2O
product | 1-AMINO-s-TRIAZOLO(4,3-a)QUINOLINE | NC1=NN=C2N1C1=CC=CC=C1C=C2 | C10H8N4
